US07279490B2
1-[1-[1-(2,6-Dimethylbenzyl)piperidin-4-yl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
To a solution of 19.8 mg of 1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one and 7.5 microliter of 2,6-dimethylbenzaldehyde in 1 ml of MeOH was added 274 microliter of 0.3M MeOH solution of ZnCl2—NaBH3CN at room temperature. The reaction mixture was stirred at room temperature for 2 h and quenched with saturated aqueous NaHCO3. The mixture was extracted with EtOAc, and the organic layer was washed with the 1:1 solution of saturated aqueous NaHCO3 and brine, and dried over anhydrous Na2SO4. The organic solvent was evaporated and the residue was purified with PNLC (CHCl3/MeOH/28% aqueous NH3=100/10/1) gave 11.8 mg of the target compound as a colorless solid.

reactant | 1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 19.8 mg | N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H24N4O
reactant | 2,6-dimethylbenzaldehyde | 7.5 microliter | CC1=C(C=O)C(=CC=C1)C | C9H10O
solvent | MeOH | 1 ml | CO | CH4O
catalyst | ZnCl2 NaBH3CN | [Cl-].[Cl-].[Zn+2].[BH3-]C#N.[Na+]
solvent | MeOH | 0.3M, 274 microliter | CO | CH4O
product | 1-[1-[1-(2,6-Dimethylbenzyl)piperidin-4-yl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | 11.8 mg | CC1=C(CN2CCC(CC2)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C(=CC=C1)C | C26H34N4O
